US04578393
A solution of 1-(4-chlorophenyl)-3-dimethylamino-6,7-dimethoxy-1,4-dihydroisoquinoline hydrochloride (1.3 g) in 48% aqueous hydrobromic acid (100 ml) was heated at 100°-120° C. under nitrogen for 3 h. The hot solution was filtered, and the filtrate evaporated to dryness in vacuo and recrystallised from ethanol-ether, to give 1-(4-chlorophenyl)-6,7-dihydroxy-3-dimethylamino-1,4-dihydroisoquinoline hydrobromide (1.07 g), m.p. 232°-235° C.

reactant | 1-(4-chlorophenyl)-3-dimethylamino-6,7-dimethoxy-1,4-dihydroisoquinoline hydrochloride | 1.3 g | Cl.ClC1=CC=C(C=C1)C1N=C(CC2=CC(=C(C=C12)OC)OC)N(C)C
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 1-(4-chlorophenyl)-6,7-dihydroxy-3-dimethylamino-1,4-dihydroisoquinoline hydrobromide | 1.07 g | Br.ClC1=CC=C(C=C1)C1N=C(CC2=CC(=C(C=C12)O)O)N(C)C | InChI=1S/C17H17ClN2O2.BrH/c1-20(2)16-8-11-7-14(21)15(22)9-13(11)17(19-16)10-3-5-12(18)6-4-10;/h3-7,9,17,21-22H,8H2,1-2H3;1H
